US04324792
(i) 4-[3-(N,N-Dimethylamino)-1-cyanopropyl]benzoic acid, methyl ester
A solution of 4-cyanomethylbenzoic acid, methyl ester (28.8 g) in dry dimethylformamide (DMF) (100 ml) was added dropwise to a stirred suspension of sodium hydride (80%, dispersion in oil, 5.4 g) in DMF (50 ml) under nitrogen. The mixture was stirred at 50° for 1 h., then a solution of dimethylaminoethyl chloride (21.3 g) in DMF (50 ml) was added and stirring was continued at 50° for 18 h.

reactant | 4-cyanomethylbenzoic acid, methyl ester | 28.8 g | C(#N)CC1=CC=C(C(=O)OC)C=C1 | C10H9NO2
reactant | sodium hydride | 5.4 g | [H-].[Na+]
reactant | dimethylaminoethyl chloride | 21.3 g | CN(C)CCCl | C4H10ClN
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
solvent | DMF | 50 ml | CN(C=O)C | C3H7NO
product | 4-[3-(N,N-Dimethylamino)-1-cyanopropyl]benzoic acid, methyl ester | CN(C)CCC(C#N)C1=CC=C(C(=O)OC)C=C1 | C14H18N2O2
